* Z:\home\carles\Dropbox\notes\pkb\electronics\components\saturable inductor\saturable inductor.asc
L1 L1 0 {L} Rser=1m
L2 L2 0 flux={x*L}
B1 0 L1 I=time
B2 0 L2 I=time
L3 L3 0 flux={Isat*L*tanh(x/Isat)} Rser=1m
B3 0 L3 I=time
L4 L4 0 flux={x*L*tanh(x/Isat)} Rser=1m
B4 0 L4 I=time
.tran 5
* Saturable inductor
* Even though LTspice doesn't allow behavioural inductances it does allow behavioural\ncontrol of the flux through a coil, which we can use to simulate a saturable coil. This\nexpression can use the coil current, which for some reason is named x, but cannot\ndepend on any other dynamic variable (i.e. voltages or currents)
* Since flux = IL all we need to do is write x*{L} times a saturation coefficient which will be\nan expression of the coil current. The tanh function, for instance, can be used to do this.
.param L 330m
.param Isat 2
* The following example is derived from http://ltwiki.org/?title=The_Arbitrary_Inductor_model
* We use a testing current that has a derivative dI/dt = 1, so that the voltage across\nthe inductor is equal to the inductor's inductance, since  V = LdI/dt = L
* Non-saturable 300mH coil
* Same, but using flux control
* Constant inductance, as expected
* To check that flux=x*L is equivalent
* Saturation with tanh
* Inductance decays
* A more accurate model
* Takes into account that flux=I*L, \nbut I need to find a better function \nto model the\ninductance decay
.backanno
.end
